US04552866
L-Phenylalanyl-L-leucine, t-butyl ester hydrochloride (2.22 g, 6 mmol) was partitioned between saturated sodium bicarbonate (60 ml) and ethyl acetate (90 ml). The ethyl acetate layer was washed with saturated sodium bicarbonate (20 ml), water (2×20 ml) and brine (2×20 ml), then dried (sodium sulfate) and evaporated to give L-phenylalanyl-L-leucine, t-butyl ester (2.07 g) as a colorless oil.

reactant | L-Phenylalanyl-L-leucine, t-butyl ester hydrochloride | 6 mmol, 2.22 g | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | L-phenylalanyl-L-leucine, t-butyl ester | 2.07 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C19H30N2O3
